* 310V to 5V sync buck (M2 replaces D1), 150W
* D=16.1m, Rload=167m; dead time ~5% each end
Vin in 0 310
M1 in gate sw 0 NMOS W=1 L=1
M2 sw gate2 0 0 NMOS W=1 L=1
L1 sw out 100u
C1 out 0 220u
Rload out 0 167m
Rbleed sw 0 1Meg
Vgate  gate  0 PULSE(0 12 0 1n 1n 161n 10u)
Vgate2 gate2 0 PULSE(0 12 661n 1n 1n 9.14u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.tran 1n 5m
.probe V(*) I(*)
.end
